US08633220B2
Step 7. 2-(3-(3-Hexylquinoline-8-carboxamido)phenoxy)acetic acid
Aqueous 2 N lithium hydroxide (0.7 mL, 1.4 mmol) and water (0.7 mL) were added to a solution of isopropyl 2-(3-(3-hexylquinoline-8-carboxamido)phenoxy)acetate (210 mg, 0.47 mmol) in THE (5.0 mL) and the solution was stirred at room temperature. After 20 h, the THF was removed in vacuo. The residual aqueous phase was adjusted to pH 4-5 with 1 N aqueous HCl and extracted with EtOAc (3×). The combined organic phase was dried (MgSO4), filtered and concentrated in vacuo to afford 177 mg (93%) of the title compound.

reactant | lithium hydroxide | 1.4 mmol, 2 N, 0.7 mL | [OH-].[Li+]
reactant | isopropyl 2-(3-(3-hexylquinoline-8-carboxamido)phenoxy)acetate | 0.47 mmol, 210 mg | C(CCCCC)C=1C=NC2=C(C=CC=C2C1)C(=O)NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C27H32N2O4
solvent | water | 0.7 mL | O | H2O
product | 2-(3-(3-Hexylquinoline-8-carboxamido)phenoxy)acetic acid | 177 mg, 93% | C(CCCCC)C=1C=NC2=C(C=CC=C2C1)C(=O)NC=1C=C(OCC(=O)O)C=CC1 | C24H26N2O4
